US08058045B2
N-(5-Bromo-4-(1-methylpiperidin-4-ylamino)pyridin-2-yl)pivalamide (526 mg, 1.075 mmol) in 6M HCl (10 mL, 60.0 mmol) was heated by microwave irradiation to 105° C. for 1.5 hr. After cooling the volatiles were removed in vacuo. The residue was purified by ion exchange on Isolute SCX II acidic resin, washing with MeOH and then with 2M NH3 in MeOH. The basic fractions were concentrated to give crude 5-bromo-N4-(1-methylpiperidin-4-yl)pyridine-2,4-diamine (290 mg, 1.069 mmol, 100% yield) as a cream powder. LCMS (4) Rt=0.56 min; m/z (ESI+) 271/273 (MW). Di-tert-butyl dicarbonate (73.6 μl, 0.317 mmol) dissolved in the minimum amount of dichloromethane was slowly added to an ice-cooled solution of 5-bromo-N4-(piperidin-4-yl)pyridine-2,4-diamine (86 mg, 0.317 mmol) in triethylamine (134 μL, 0.951 mmol) and dichloromethane (2.44 mL). The mixture was stirred at 0° C. for 30 min followed by 1 hr at r.t. Solvents were removed in vacuo and the crude material was purified by preparative thin layer chromatography, eluting with 7% MeOH, 1% NH3 in dichloromethane, to give tert-butyl 4-(2-amino-5-bromopyridin-4-ylamino)piperidine-1-carboxylate (91 mg, 0.245 mmol, 77%) as a colourless foam.

reactant | Di-tert-butyl dicarbonate | 0.317 mmol, 73.6 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-N4-(piperidin-4-yl)pyridine-2,4-diamine | 0.317 mmol, 86 mg | BrC=1C(=CC(=NC1)N)NC1CCNCC1 | C10H15BrN4
reactant | triethylamine | 0.951 mmol, 134 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2.44 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(2-amino-5-bromopyridin-4-ylamino)piperidine-1-carboxylate | 0.245 mmol, 91 mg, 77% | NC1=NC=C(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)Br | C15H23BrN4O2
